US06265411B1
Sodium hydride (80 mg, 3.4 mmol, pre-washed with petroleum ether) was added to a solution of 5-fluorooxindole (423 mg, 2.8 mmol), (prepared according to Synthesis 1993, 51), in THF (10 ml) at ambient temperature under argon. The resulting suspension was stirred for 30 minutes and a partial solution of 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline (236 mg, 0.7 mmol), (prepared as described for the starting material in Example 5), in a 1/1 mixture of THFIDMF (14 ml), was added and the reaction mixture was stirred at ambient temperature for 15 hours. The volatiles were then removed by evaporation and the residue purified by column flash chromatography using an increasingly polar mixture of methylene chloride and methanol (2 to 10%) as eluent. The purified product was dissolved in a minimum volume of methanol and a 2.9M solution of hydrogen chloride in ether was added to the solution. During the evaporation of the solvents a solid precipitated which was collected by filtration, washed with ether and dried under vacuum to give 4-(5-fluorooxindol-3-yl)-4-methoxy-7-(3-morpholinopropoxy)quinazoline as a hydrochloride salt (298 mg, 81%).

reactant | Sodium hydride | 3.4 mmol, 80 mg | [H-].[Na+]
reactant | 5-fluorooxindole | 2.8 mmol, 423 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | 4-chloro-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 0.7 mmol, 236 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(5-fluorooxindol-3-yl)-4-methoxy-7-(3-morpholinopropoxy)quinazoline | FC=1C=C2C(C(NC2=CC1)=O)C1(NC=NC2=CC(=CC=C12)OCCCN1CCOCC1)OC | C24H27FN4O4
